datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Nc1ccc2[nH]c(CCc3ccccc3)[n:10]c2c1.[O-]c1ccc([O-])[n+:21]([H:20])n1>>Nc1ccc2[nH]c(CCc3ccccc3)[n+:10]([H:20])c2c1.[O-]c1ccc([O-])[n:21]n1 10=20;20,21=21",
"CCN(CC)C(=O)C[NH:10]CC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCN(CC)C(=O)C[NH+:10](CC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Clc1cc(Cl)c2cccnc2c1[O-:10].O=C([O-])C1CCCC[NH+:21]1[H:20]>>Clc1cc(Cl)c2cccnc2c1[O:10][H:20].O=C([O-])C1CCCC[NH:21]1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C[NH+]3CCOCC3)[n:10]c12.O=[N+]([O-])c1ccc2c([NH2+:21][H:20])cccc2c1>>Cc1cc(-c2ccccc2)nn2cc(C[NH+]3CCOCC3)[n+:10]([H:20])c12.O=[N+]([O-])c1ccc2c([NH2:21])cccc2c1 10=20;20,21=21",
"C1=CC=CC([OH+:21][H:20])C=C1.c1cncc(C2=[N:10]CCC2)c1>>C1=CC=CC([OH:21])C=C1.c1cncc(C2=[N+:10]([H:20])CCC2)c1 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1cc([O-:10])ccc1O.O=C(Cc1ccc(-c2ccccc2)cc1)[O:21][H:20]>>Cc1cc([O:10][H:20])ccc1O.O=C(Cc1ccc(-c2ccccc2)cc1)[O-:21] 10=20;20,21=21",
"CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n+:21]([H:20])c2ccccc21.O=C([O-])C(Cc1nc[nH]c1I)[NH2:10]>>CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n:21]c2ccccc21.O=C([O-])C(Cc1nc[nH]c1I)[NH2+:10][H:20] 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@]13CC[N+:21]4([H:20])CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.O=S(=O)([O-])c1cc([O-:10])cc2cn[nH]c12>>COc1cc2c(cc1OC)[C@]13CC[N:21]4CC5=CCO[C@H]6CC(=O)N2[C@H]1C6[C@@]5(S(=O)(=O)[O-])C[C@@H]34.O=S(=O)([O-])c1cc([O:10][H:20])cc2cn[nH]c12 10=20;20,21=21",
"C1CCC([N:10]2CCCC2)CC1.C[N+:21]1([H:20])CSCC1C(=O)[O-]>>C1CCC([N+:10]2([H:20])CCCC2)CC1.C[N:21]1CSCC1C(=O)[O-] 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC[NH+:10](CCCC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(C[N+:21]1([H:20])CCCCC1)Nc1ccccc1.c1cncc(C2=[N:10]CCC2)c1>>O=C(C[N:21]1CCCCC1)Nc1ccccc1.c1cncc(C2=[N+:10]([H:20])CCC2)c1 10=20;20,21=21",
"C1CSCC[NH:10]CCN1.O=C(c1cccc(C2CC2)c1)[O:21][H:20]>>C1CSCC[NH+:10]([H:20])CCN1.O=C(c1cccc(C2CC2)c1)[O-:21] 10=20;20,21=21",
"C=C(C)C=C(C)[O-:10].Oc1c[n+:21]([H:20])cc2ccccc12>>C=C(C)C=C(C)[O:10][H:20].Oc1c[n:21]cc2ccccc12 10=20;20,21=21",
"Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Cl)cc3)o2)cc1.Nc1cccc2nc[n:10]cc12>>Cc1ccc(-c2c[n:21]c(-c3ccc(Cl)cc3)o2)cc1.Nc1cccc2nc[n+:10]([H:20])cc12 10=20;20,21=21",
"CCCCC(C(=O)[O-])[NH2+:21][H:20].CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N:10]3CCNCCNCCNCC3)cccc12>>CCCCC(C(=O)[O-])[NH2:21].CN(C)c1cccc2c(S(=O)(=O)[N-]CC[N+:10]3([H:20])CCNCCNCCNCC3)cccc12 10=20;20,21=21",
"C#CC(=O)[O-:10].CC(C)(C)c1cc(C(C)(C)C)cc([NH2+:21][H:20])c1>>C#CC(=O)[O:10][H:20].CC(C)(C)c1cc(C(C)(C)C)cc([NH2:21])c1 10=20;20,21=21",
"C[Si](C)(C)CCCCCC(=O)[O:21][H:20].c1ccc(C[NH2+]CC[S-:10])cc1>>C[Si](C)(C)CCCCCC(=O)[O-:21].c1ccc(C[NH2+]CC[S:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c(I)c1.Cn1c[n:10]c2cc(N)ccc21>>Cc1ccc(C(=O)[O-:21])c(I)c1.Cn1c[n+:10]([H:20])c2cc(N)ccc21 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(CCc1ccc(O)cc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(CCc1ccc(O)cc1)[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(Cc1ccccc1)[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)(Cc1ccccc1)[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"NC(c1ccccc1N)=[N+:21](O)[H:20].c1cncc(-c2nc3ccccc3[n-:10]2)c1>>NC(c1ccccc1N)=[N:21]O.c1cncc(-c2nc3ccccc3[n:10]2[H:20])c1 10=20;20,21=21",
"Nc1ccc(Cl)cc1[NH2+:21][H:20].OC(c1cccnc1)[O-:10]>>Nc1ccc(Cl)cc1[NH2:21].OC(c1cccnc1)[O:10][H:20] 10=20;20,21=21",
"N#CC(C#N)=[N+:21](Nc1ccc(/N=N/c2ccccc2)cc1)[H:20].O=[N+]([O-])c1ccc(S(=O)[O-:10])cc1>>N#CC(C#N)=[N:21]Nc1ccc(/N=N/c2ccccc2)cc1.O=[N+]([O-])c1ccc(S(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CC([NH3+])c1nnn[n-:10]1.O=C1C[N+:21]2([H:20])CCC1CC2>>CC([NH3+])c1nnn[n:10]1[H:20].O=C1C[N:21]2CCC1CC2 10=20;20,21=21",
"CC(C)CN(CC(C)C)C(=S)[S-:10].C[Se](=O)[O:21][H:20]>>CC(C)CN(CC(C)C)C(=S)[S:10][H:20].C[Se](=O)[O-:21] 10=20;20,21=21",
"CC[N+:21](CC)(CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C)[H:20].Nc1cc(N)c2cccnc2c1[O-:10]>>CC[N:21](CC)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.Nc1cc(N)c2cccnc2c1[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)C[NH+:21](c1ccccc1)[H:20].NC(=S)[N-:10]c1ccc([N+](=O)[O-])cc1>>CC(C)(C)C[NH:21]c1ccccc1.NC(=S)[N:10](c1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"CC(=O)Nc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)Nc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1c2ccccc2cc[n:10]1.O[C@H]1CCCCC[C@@H]1[NH2+:21][H:20]>>Nc1c2ccccc2cc[n+:10]1[H:20].O[C@H]1CCCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(CCC[NH2:10])nc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(CCC[NH2+:10][H:20])nc1 10=20;20,21=21",
